US07906540B2
step 3—A solution of 3-bromo-5-methoxy-benzaldehyde (1 mmol) in DMF (2 mL) is added to a round bottomed flask containing Zn(CN)2 (0.7 equivalents), Pd(PPh3)4(0) (0.2 equivalents) in DMF (15 mL). The reaction is stirred at 90° C. under an atmosphere of argon for 48 h. The reaction mixture is cooled and evaporated to dryness. The crude residue is dissolved in EtOAc, washed with brine solution, dried (MgSO4) and evaporated. The crude product is purified by SiO2 chromatography to afford 3-formyl-5-methoxy-benzonitrile.

reactant | 3-bromo-5-methoxy-benzaldehyde | 1 mmol | BrC=1C=C(C=O)C=C(C1)OC | C8H7BrO2
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 0.7 equivalents | [C-]#N.[C-]#N.[Zn+2]
product | 3-formyl-5-methoxy-benzonitrile | C(=O)C=1C=C(C#N)C=C(C1)OC | C9H7NO2
